US07087605B2
7-(Bicyclo[2.2.1]hept-2-ylmethyl)-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one
In analogy to the procedure for Example 1, 200 mg (0.56 mmol) crude 2-bicyclo[2.2.1]hept-2-yl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)-propyl]acetamide, 165 mg (1.1 mmol) phosphoric trichloride are stirred at reflux for 4 hours, proportionate amounts of the solvents are used. The product is purified by chromatography (preparative HPLC).

reactant | 2-bicyclo[2.2.1]hept-2-yl-N-[1-(3-cyclopentyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)-propyl]acetamide | 0.56 mmol, 200 mg | C12C(CC(CC1)C2)CC(=O)NC(CC)C=2C(NC(=NN2)C2CCCC2)=O | C20H30N4O2
reactant | phosphoric trichloride | 1.1 mmol, 165 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-(Bicyclo[2.2.1]hept-2-ylmethyl)-2-cyclopentyl-5-ethylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | C12C(CC(CC1)C2)CC2=NC(=C1C(NC(=NN12)C1CCCC1)=O)CC | C20H28N4O
